US05952511
To a solution of 0.80 g of anhydrous aluminum chloride in 20 ml of dry tetrahydrofuran were added successively a solution of 0.57 g of 1-benzyl-3,3-dimethoxyindolin-2-one in 10 ml of dry tetrahydrofuran and 0.60 g of p-tolylurea at 0° C. under a nitrogen atmosphere, and the mixture was heated under reflux for 2 hours. Ethyl acetate was added to the reaction mixture, and the mixture was washed twice with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate, followed by concentration. The residue was purified by silica gel column chromatography (chloroform/ethyl acetate=4/1) to obtain 0.24 g (23%) of 1-benzyl-3,3-bis(N'-(4-methylphenyl)ureido)indolin-2-one as a white powder.

reactant | aluminum chloride | 0.80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-benzyl-3,3-dimethoxyindolin-2-one | 0.57 g | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(OC)OC)=O | C17H17NO3
reactant | p-tolylurea | 0.60 g | C1(=CC=C(C=C1)NC(=O)N)C | C8H10N2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-benzyl-3,3-bis(N'-(4-methylphenyl)ureido)indolin-2-one | 0.24 g, 23% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)C)=O | C31H29N5O3
